US05262556
Preparation of 2-(4'-propylbicyclohexyl-4-yl)-1-(2,6-difluoropyridine-3-yl)ethane
A solution of 0.02 mol of lithium diisopropylamide in THF/hexane (prepared analogously to Example 1) is added dropwise at 25° C. to a mixture of 0.2 mol of 2,6-difluoropyridine, 0.02 mol of N,N-dimethylethyleneurea, 0.02 mol of 2-(4'-propylbicyclohexyl-4-yl)-1-iodoethane and 25 ml of THF. Stirring for 1.5 hours and workup as described in Example 1 give the pure product.

reactant | lithium diisopropylamide | 0.02 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,6-difluoropyridine | 0.2 mol | FC1=NC(=CC=C1)F | C5H3F2N
reactant | N,N-dimethylethyleneurea | 0.02 mol | CN(C)C(=O)N1CC1 | C5H10N2O
reactant | 2-(4'-propylbicyclohexyl-4-yl)-1-iodoethane | 0.02 mol | C(CC)C1CCC(CC1)C1CCC(CC1)CCI | C17H31I
solvent | THF hexane | C1CCOC1.CCCCCC
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(4'-propylbicyclohexyl-4-yl)-1-(2,6-difluoropyridine-3-yl)ethane | C(CC)C1CCC(CC1)C1CCC(CC1)CCC=1C(=NC(=CC1)F)F | C22H33F2N
